US04097582
(d) 6-Cyanomethyl-2-(p-chlorophenyl)chromone Empirical formula C17H10ClNO2Molecular weight = 295.71
3.2 g (0.05 mole) of potassium cyanide dissolved in 50 ml of water is placed in a reaction vessel. The solution is heated to 60° C and a solution of 8.3 g (0.023 mole) of 6-bromomethyl-2-(p-chlorophenyl)chromone in 1600 ml of ethanol is added in four portions, one every 20 minutes. Once the addition is complete the mixture is refluxed for 3 hours, evaporated to dryness and dissolved in water. The solid is filtered off and recrystallised from alcohol.

reactant | potassium cyanide | 0.05 mole, 3.2 g | [C-]#N.[K+]
reactant | 6-bromomethyl-2-(p-chlorophenyl)chromone | 0.023 mole, 8.3 g | BrCC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C=C1)Cl)=O | C16H10BrClO2
solvent | water | 50 ml | O | H2O
solvent | ethanol | 1600 ml | C(C)O | C2H6O
product | 6-Cyanomethyl-2-(p-chlorophenyl)chromone | C(#N)CC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C=C1)Cl)=O | C17H10ClNO2
